US07605176B2
Ethyl 3-(4′-chlorobiphenyl-4-yl)-3-oxopropionate
4.29 g (32.5 mmol) of monoethyl malonate is dissolved in 100 mL of THF and 42.3 mL (67.7 mmol) of butyllithium solution (1.6N in hexane) is added dropwise at −60° C. The temperature is allowed to come up to −15° C., then the mixture is cooled again to −65° C. and 3.40 g (13.5 mmol) of 4′-chlorobiphenyl-4-carboxylic acid chloride (for preparation see Gazz. Chim. Ital. 1949, 79, 453.) in 30 mL of THF is added dropwise. The mixture is kept for 5 minutes at −65° C., then heated for 2 hours to ambient temperature. The mixture is poured onto 50 mL of 1N hydrochloric acid, extracted with 300 mL of diethyl ether, and the organic phase is washed with saturated sodium hydrogen carbonate solution and water and finally dried over sodium sulfate. The solvent is eliminated, the residue is recrystallized from petroleum ether and the product is dried in vacuo. Yield: 3.10 g (76% of theory); Rf value: 0.60 (silica gel, petroleum ether/ethyl acetate=5:2); m.p. 45° C.-50° C.; C17H15ClO3; EII mass spectrum: m/z=303/305 [M+H]+.

reactant | monoethyl malonate | 32.5 mmol, 4.29 g | C(CC(=O)[O-])(=O)OCC
reactant | butyllithium | 67.7 mmol, 1.6N, 42.3 mL | C(CCC)[Li]
reactant | 4′-chlorobiphenyl-4-carboxylic acid chloride | 13.5 mmol, 3.40 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C13H8Cl2O
reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(4′-chlorobiphenyl-4-yl)-3-oxopropionate | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(=O)OCC)=O | C17H15ClO3
